US07705027B2
Ethyl chloroformate (3 eq) was added slowly to a cooled (0° C.) solution of 1-(2,4-dihydroxy-phenyl)-2-methyl-propan-1-one (1 eq) and triethylamine (3 eq) in THF. The mixture was warmed to ambient temperature and stirred for three hours before being filtered and the solids washed with cold THF. The combined filtrates were cooled to 0° C. and sodium borohydride (4 eq) in a volume of water equal to the THF filtrates added slowly. The mixture was warmed to ambient temperature, stirred for three hours and diluted with water. The mixture was twice extracted with diethyl ether, the combined extracts concentrated to dryness and re-suspended in 10% aqueous sodium hydroxide solution (4 eq). After refluxing for 90 minutes, the mixture was cooled, acidified with 5M aq HCl and twice extracted with diethyl ether. The organic extracts were dired over magnesium sulphate, filtered and concentrated to dryness to give 4-isobutyl-benzene-1,3-diol as a cloudy oil, which was used without further purification.

reactant | Ethyl chloroformate | 3 eq | ClC(=O)OCC | C3H5ClO2
reactant | 1-(2,4-dihydroxy-phenyl)-2-methyl-propan-1-one | 1 eq | OC1=C(C=CC(=C1)O)C(C(C)C)=O | C10H12O3
reactant | triethylamine | 3 eq | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 4 eq | [BH4-].[Na+]
reactant | sodium hydroxide | 4 eq | [OH-].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-isobutyl-benzene-1,3-diol | C(C(C)C)C1=C(C=C(C=C1)O)O | C10H14O2
